US06949542B2
(5-Ethoxy-2-{3-[3-(2-ethyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-ethoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J8) (240 mg, 0.75 mmol) and 3-[3-(2-ethyl-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K31) (244 mg, 0.75 mmol) according to the general procedure M. Obtained as an amorphous yellow substance (294 mg, 69%).

reactant | (2-amino-5-ethoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 240 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)N)=O | C14H19F3N2O3
reactant | 3-[3-(2-ethyl-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.75 mmol, 244 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1C(=NC=CC1)CC)=O | C20H23NO3
product | (5-Ethoxy-2-{3-[3-(2-ethyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C=1C(=NC=CC1)CC)=O)=O | C30H32F3N3O5
